US06096899
The acrodamn, prepared as per the earlier described method, was used in this present synthesis. The acrodamn (7.00 g) was dissolved in 150 ml of distilled acetonitrile, yielding an orange solution. A solution of 22.5 g of lead (IV) tetraacetate and 300 ml of distilled acetonitrile was placed in a room temperature water bath. The acrodamn/acetonitrile solution was poured, in one portion, into the lead (IV) tetraacetate solution. The colorless lead solution immediately darkened to an orange-red solution and a white, voluminous precipitate with a metallic sheen appeared. The solution was allowed to stir for 10 minutes, and then filtered. The resulting precipitate was washed via filtration until no more color was liberated in the filtrate. The filtrate was then rotovapped and stripped with a vacuum pump. To the resulting residue, 400 ml of ether was added and allowed to stir overnight. The ether solution was filtered and rotovapped to yield 5.63 g of 2-vinyl-4,5-dicyanoimidazole (82%) as a reddish solid. This crude product shows very small traces of unidentified impurity and may be purified by dissolving in a minimum of ethyl acetate, pouring the ethyl acetate into ether, filtering the precipitate, and evaporating the filtrate to recover the product for essentially quantitative recovery.

reactant | acrodamn | C=CC=N/C(=C(\C#N)/N)/C#N | C7H6N4
reactant | acrodamn | 7.00 g | C=CC=N/C(=C(\C#N)/N)/C#N | C7H6N4
reactant | lead (IV) tetraacetate | 22.5 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | acrodamn acetonitrile | C=CC=N/C(=C(\C#N)/N)/C#N.C(C)#N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 2-vinyl-4,5-dicyanoimidazole | 5.63 g, 82% | C(=C)C=1NC(=C(N1)C#N)C#N | C7H4N4
